US05707931
6-Chloro-4-(3,3-diethoxypropylamino)-3-isobutyryl-8-trifluoromethyl-2-quinolinone (31)
6-Chloro-3-isobutyryl-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone (379 mg, 1 mmol) and 3,3-diethoxypropylamine (147 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (335 mg, yield: 78%).

reactant | 6-Chloro-3-isobutyryl-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone | 1 mmol, 379 mg | ClC=1C(=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(C(C)C)=O)C)OS(=O)(=O)O | C15H13ClF3NO6S
reactant | 3,3-diethoxypropylamine | 1 mmol, 147 mg | C(C)OC(CCN)OCC | C7H17NO2
product | 6-Chloro-4-(3,3-diethoxypropylamino)-3-isobutyryl-8-trifluoromethyl-2-quinolinone | 335 mg, yield: 78% | ClC=1C=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(C(C)C)=O)NCCC(OCC)OCC | C21H26ClF3N2O4
